US05112736
The reagents used are as follows. The DNA is a single strand TKZ 52 mer. The radioisotope label is a-32P-dAATP, 10 μCi/μl and 370 MBq/ml in Tricine solution (DuPont). The `10×Magnesium reaction buffer solution consists primarily of MgCl2 (Int. Biotechnologies, Inc. Cat. #20125). The enzyme used for the labeling reaction is terminal dideoxynucleotidyl transferase (TdT, Pharmacia), 20 unit/μl. Reagents used for the gel casting include (1) urea (Sigma, enzyme grade), (2) acrylamide stock solution, which is a 38% acrylamide and 2% bisacrylamide aqueous solution, (2) TBE electrotransfer buffer which contains 10.8 g Tris base, 5.5 g. Boric acid and 0.97 g Na2EDTA in one liter of aqueous solution, (4) 10% ammonium persulphate (APS) in aqueous solution and (5) crosslinking catalyst N,N,N',N'-tetramethylethylenediamine (TEMED, Bio-Rad). The DNA fixation reagent is diluted from a 25% glutaraldehyde aqueous stock solution (Sigma) with ethanol, and the passivation reagent is diluted from 99% pure ethanolamine (Kodak). The ionic detergent SDS is provided in 20% aqueous solution.

reactant | Magnesium | [Mg] | Mg
reactant | MgCl2 | [Mg+2].[Cl-].[Cl-]
reactant | urea | NC(=O)N | CH4N2O
reactant | acrylamide | C(C=C)(=O)N | C3H5NO
reactant | bisacrylamide | C=CC(=O)NCNC(=O)C=C | C7H10N2O2
reactant | Tris base | 10.8 g | C(C(CO)(CO)N)O | C4H11NO3
reactant | Boric acid | B(O)(O)O | BH3O3
reactant | Na2EDTA | 0.97 g | C(CN(CC(=O)O)CC(=O)[O-])N(CC(=O)O)CC(=O)[O-].[Na+].[Na+]
reactant | N,N,N',N'-tetramethylethylenediamine | CN(CCN(C)C)C | C6H16N2
reactant | glutaraldehyde | C(CCCC=O)=O | C5H8O2
reactant | ethanolamine | C(O)CN | C2H7NO
reactant | ammonium persulphate | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[NH4+].[NH4+]
solvent | Tricine | N(CC(=O)O)C(CO)(CO)CO | C6H13NO5
solvent | ethanol | C(C)O | C2H6O
product | SDS | CCCCCCCCCCCCOS(=O)(=O)[O-].[Na+] | InChI=1S/C12H26O4S.Na/c1-2-3-4-5-6-7-8-9-10-11-12-16-17(13,14)15;/h2-12H2,1H3,(H,13,14,15);/q;+1/p-1
